US08461179B1
A −50° C. solution of ethyl 6-chloro-4-(ethylamino)nicotinate (3.9 g, 17 mmol) in THF (50 mL) was treated with LiAlH4 (3.6 g, 95 mmol), allowed to warm to 0° C. and stirred for 1 h. The mixture was quenched with 10% NaOH (3.6 mL), filltered and the filtrate treated with water and extracted with EtOAc (3×). The combined organics were washed with brine, dried (MgSO4) and concentrated in vacuo to provide (6-chloro-4-(ethylamino)pyridin-3-yl)methanol (2.5 g, 79% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.84 (s, 1H), 6.55 (s, 1H), 6.17 (m, 1H), 5.25 (t, J=5.2 Hz, 1H), 4.44 (q, J=7.2 Hz, 2H), 3.23 (m, 2H), 1.23 (t, J=7.2 Hz, 3H).

reactant | ethyl 6-chloro-4-(ethylamino)nicotinate | 17 mmol, 3.9 g | ClC1=NC=C(C(=O)OCC)C(=C1)NCC | C10H13ClN2O2
reactant | LiAlH4 | 95 mmol, 3.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (6-chloro-4-(ethylamino)pyridin-3-yl)methanol | 2.5 g, 79% yield | ClC1=CC(=C(C=N1)CO)NCC | C8H11ClN2O
